US05136090
To 4 ml of a DMF solution containing 94 mg (0.2435 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 394.4 μl (2.435 mmol) of heptyl bromide, there were added 40.3 mg (0.3109 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated overnight at room temperature. The reaction mixture was filtered by suction through elite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, dilute aqueous sodium bicarbonate, water and aqueous sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 10 g of WAKO-gel C-200, eluent: benzene and benzene/ethyl acetate of 300/1, 150/1 and 50/1) to obtain 88.1 mg (0.182 mmol, 75%) of 2-heptyloxy-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl as an oily product. 1H-NMR (CDCl3) δ (ppm): 0.85 (3H, t, CH3), 1.23 (6H, t, 2CH3), 1.1-1.5 (8H, m, 4CH2), 1.6-1.9 (2H, m, CH2), 2.5-2.8 (4H, m, 2CH2), 2.8-3.1 (4H, m, 2CH2), 4.01 (2H, t, CH2), 4.13 (4H, q, 2CH2), 6.58 (1H, s, OH), 6.8-7.3 (6H, m, arom-H) MS (FAB): 483 (M-H)-

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.2435 mmol, 94 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | heptyl bromide | 2.435 mmol, 394.4 μl | C(CCCCCC)Br | C7H15Br
reactant | potassium carbonate | 0.3109 mmol, 40.3 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-heptyloxy-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.182 mmol, 88.1 mg, 75% | C(CCCCCC)OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C29H40O6
